US09382424B2
A mixture of 4-chloropyridinium hydrochloride (25.0 g, 166 mmol), benzotriazole (29.6 g, 249 mmol), potassium carbonate (69.1 g, 500 mmol), and dimethylformamide (DMF) (500 mL) was stirred and heated under argon at 130° C. for 3 days. After cooling, the solid was filtered off, and the solvent was evaporated under reduced pressure. The residue was treated with dichloromethane (200 mL), filtered and chromatographed using a column filled with silica gel (500 mL) and hexane/ethyl acetate (1:1) as an eluent. Fractions containing the desired product were combined, and the solvent was distilled off. The residue was triturated with ethanol, the solid was filtered off and dried in a vacuum oven to give 2-(pyridin-4-yl)-2H-benzo[d][1,2,3]triazole, 6.45 g, 20%). 1H NMR (400 MHz, CDCl3): δ 8.80 (m, 2H, pyridine), 8.26 (m, 2H, pyridine), 7.93 (m, 2H, benzotriazole), 7.46 (m, 2H, benzotriazole).

reactant | 4-chloropyridinium hydrochloride | 166 mmol, 25.0 g | Cl.ClC1=CC=[NH+]C=C1
reactant | benzotriazole | 249 mmol, 29.6 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | potassium carbonate | 500 mmol, 69.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 500 mL | CN(C=O)C | C3H7NO
product | 2-(pyridin-4-yl)-2H-benzo[d][1,2,3]triazole | N1=CC=C(C=C1)N1N=C2C(=N1)C=CC=C2 | C11H8N4
